US05912244
(3S,4R)-3,4-Dihydro-4-(2,3-dihydro-2-methyl-3-oxopyridazin-6-yl)oxy-6-(3,4-dimethoxyphenyl)sulphonyl-3-hydroxy-2,2,3-trimethyl-2H-benzo[b]pyran (0.50 g) (see Preparation 26) was dissolved in dichloromethane (12 ml) (under a nitrogen atmosphere) and boron tribromide (4 ml of a 1M solution in dichloromethane) was added. The mixture was stirred at room temperature for one hour and a precipitate was formed. Water (20 ml) and dichloromethane (15 ml) were added, an insoluble gum formed and the solvents were decanted off. The gum was then chromatographed on silica using 1:9 methanol: dichloromethane as the eluent to yield (3S,4R)-3,4-dihydro-4-(2,3-dihydro-2-methyl-3-oxopyridazin-6-yl)oxy-6-(3,4-dihydroxyphenyl)sulphonyl-3-hydroxy-2,2,3-trimethyl-2H-benzo[b]pyran (0.33 g) as a white foam which was then triturated with diethyl ether and dried to give a white solid.

reactant | (3S,4R)-3,4-Dihydro-4-(2,3-dihydro-2-methyl-3-oxopyridazin-6-yl)oxy-6-(3,4-dimethoxyphenyl)sulphonyl-3-hydroxy-2,2,3-trimethyl-2H-benzo[b]pyran | 0.50 g | CN1N=C(C=CC1=O)O[C@@H]1C2=C(OC([C@@]1(C)O)(C)C)C=CC(=C2)S(=O)(=O)C2=CC(=C(C=C2)OC)OC | C25H28N2O8S
reactant | Water | 20 ml | O | H2O
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (3S,4R)-3,4-dihydro-4-(2,3-dihydro-2-methyl-3-oxopyridazin-6-yl)oxy-6-(3,4-dihydroxyphenyl)sulphonyl-3-hydroxy-2,2,3-trimethyl-2H-benzo[b]pyran | 0.33 g | CN1N=C(C=CC1=O)O[C@@H]1C2=C(OC([C@@]1(C)O)(C)C)C=CC(=C2)S(=O)(=O)C2=CC(=C(C=C2)O)O | C23H24N2O8S
